US09359338B2
Step 1: Synthesis of 1-(chloromethyl)-3-nitro-5-(trifluoromethyl)benzene
Dissolve [3-nitro-5-(trifluoromethyl)phenyl]methanol (1.1 g, 5.18 mmol) and triethylamine (1.62 mL) in DCM (20 mL), cool to 0° C., add slowly p-toluenesulfonyl chloride (1.1 g, 6.02 mmol). After the addition, stir the reaction at room temperature for 15 hrs. TLC (EtOAc:PE=1:15) shows the reaction is complete. Concentrate under reduced pressure to get the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:15) affords the title compound (655 mg, 55%).

reactant | [3-nitro-5-(trifluoromethyl)phenyl]methanol | 5.18 mmol, 1.1 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3NO3
reactant | triethylamine | 1.62 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 6.02 mmol, 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(chloromethyl)-3-nitro-5-(trifluoromethyl)benzene | 655 mg, 55% | ClCC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C8H5ClF3NO2
